US07718815B2
2-[(3-Benzyl-2,3-dihydro-benzofuran-5-ylmethyl)-amino]-N-methyl-propanamide
To a solution of (S)-N-methyl-alaninamide hydrochloride (0.50 g, 3.6 mmol) in methanol (10 ml), in the presence of molecular sieves (1.00 g), sodium cyanoborohydride (0.44 g, 6.9 mmol) and a solution of 3-benzyl-2,3-dihydro-1-benzofuran-5-carbaldehyde (0.75 g, 3.6 mmol) in methanol (10 ml) were added at room temperature. The reaction mixture was kept under stirring and an argon atmosphere for 12 h. Then, the solvent was evaporated under vacuum and the residue was purified by flash chromatography on silica gel (ethyl acetate) affording 0.58 g of title compound (50% yield).

reactant | (S)-N-methyl-alaninamide hydrochloride | 3.6 mmol, 0.50 g | Cl.CNC([C@@H](N)C)=O
reactant | sodium cyanoborohydride | 6.9 mmol, 0.44 g | C(#N)[BH3-].[Na+]
reactant | 3-benzyl-2,3-dihydro-1-benzofuran-5-carbaldehyde | 3.6 mmol, 0.75 g | C(C1=CC=CC=C1)C1COC2=C1C=C(C=C2)C=O | C16H14O2
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 2-[(3-Benzyl-2,3-dihydro-benzofuran-5-ylmethyl)-amino]-N-methyl-propanamide | 0.58 g, 50% yield | C(C1=CC=CC=C1)C1COC2=C1C=C(C=C2)CNC(C(=O)NC)C | C20H24N2O2
